Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.27861759449
[C:4]#[C:9][H:10].[H:1][C:2](/[C:3]=[C:5](\[H:6])[O:7][H:8])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-6.277270355980001
[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.580535225249999
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3],4.47642822935
[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10][C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])=[C:10]=[C:11]([H:12])[H:13],-3.01134555287
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],-0.947871986788
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7]>>[C:1].[C:2]=[C:3]([O:4][H:5])[O:6][H:7],8.156326496230001
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],7.28342830099
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8])[O:12][C:9]([H:10])[H:11]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12]1,-3.69712944232
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[O:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],5.99222764944
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3],5.302470846169999
[C:1]#[C:2].[C:3]([H:4])[H:5]>>[C:1]#[C:2][C:3]([H:4])[H:5],-8.274191505860001
[O:1]([C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.9405636207300003
[H:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]1([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],0.21290679716
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.1042406877
[H:1][C:2]#[C:3][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.02790343427
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9][H:10],5.35022162034
[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-3.13785866473
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13],2.82951232948
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:11]([H:12])[H:13],4.3911097684500024
[C:4][O:5][H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.89185242579
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],4.52020332869
[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3],6.23933666827
[C:6]([H:7])[H:8].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]([H:7])[H:8],-4.49578337657
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],3.96038410107
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.83908750101
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],0.6144204548300001
[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-4.15620908981
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],2.00202755251
